US07056917B2
(A) 2-Trifluoromethanesulfonyloxy-8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-4H-pyrido[1,2-a]pyrimidin-4-one
2-Hydroxy-8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-4H-pyrido[1,2-a]-pyrimidin-4-one (400 mg) and DMAP (310 mg) were dissolved in methylene chloride (8 ml), added with trifluoromethanesulfonic anhydride (427 ml) at −78 ° C., and then the mixture was stirred overnight while the reaction temperature was gradually returned to room temperature. The reaction mixture was added with 0.2 M hydrochloric acid (50 ml) and extracted with methylene chloride, and the organic layer was dried over sodium sulfate. After the solvent was evaporated, the residue was purified by silica gel column chromatography to obtain the title compound (499 mg, 88%).

reactant | 2-Hydroxy-8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-4H-pyrido[1,2-a]-pyrimidin-4-one | 400 mg | OC=1N=C2N(C(C1)=O)C=CC(=C2)CCC=2SC=C(N2)C(C)C | C16H17N3O2S
reactant | trifluoromethanesulfonic anhydride | 427 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | hydrochloric acid | 0.2 M, 50 ml | Cl | ClH
catalyst | DMAP | 310 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | 2-Trifluoromethanesulfonyloxy-8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-4H-pyrido[1,2-a]pyrimidin-4-one | 499 mg, 88% | FC(S(=O)(=O)OC=1N=C2N(C(C1)=O)C=CC(=C2)CCC=2SC=C(N2)C(C)C)(F)F | C17H16F3N3O4S2
